US06689922B1
(E)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyloct-6-en-4-yn-3-ol
In a manner similar to Example 53(e), by reacting 390 mg (0.87 mmol) of dimethyl 4-[3-((E)-5-ethyl-5-hydroxy-1-methylhept-1-en-3-ynyl)phenoxymethyl]phthalate (prepared from the previous product in a manner similar to Example 64(d)) with 56 mg (2.6 mmol) of lithium borohydride, a colourless oil is obtained (m=248 mg; Y=72%).

reactant | dimethyl 4-[3-((E)-5-ethyl-5-hydroxy-1-methylhept-1-en-3-ynyl)phenoxymethyl]phthalate | 0.87 mmol, 390 mg | C(C)C(C#C/C=C(\C)/C=1C=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC1)(CC)O | C27H30O6
reactant | lithium borohydride | 2.6 mmol, 56 mg | [BH4-].[Li+]
product | (E)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyloct-6-en-4-yn-3-ol | OCC=1C=C(COC=2C=C(C=CC2)/C(=C/C#CC(CC)(O)CC)/C)C=CC1CO | C25H30O4
